US07666871B2
2-(2′,4′-Dimethoxy-biphenyl-4-yl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole
The title compound is prepared in a manner substantially analogous to Example 35 starting from 2,4-Dimethoxybenzene boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 393.2 (M+1)

reactant | 2,4-Dimethoxybenzene boronic acid | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 2-(2′,4′-Dimethoxy-biphenyl-4-yl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | COC1=C(C=CC(=C1)OC)C1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C24H28N2O3
